US06603012B2
3.4 g of (RS)-butoxy-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-acetic acid ethyl ester were dissolved in 40 ml of ether. After the dropwise addition of 30 ml of a 1M solution of DIBAH in hexane at −78° C., the reaction mixture was warmed to 0° C. and stirred at this temperature for 1.5 hours. For work up, the solution was cooled to −10° C., carefully treated with 1 ml of a 2 molar solution of Rochelle salt in water followed by addition of further 7 ml of this reagent. The resulting white suspension was stirred at room temperature for 1.5 hours, filtered, the residue washed well with ether and the combined organic solution dried (MgSO4) and the solvent evaporated to give 3.05 g of (RS)-2-butoxy-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanol as colorless oil. It was used in the next step without further purification.

reactant | (RS)-butoxy-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-acetic acid ethyl ester | 3.4 g | C(C)OC(C(C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)OCCCC)=O | C22H34O3
reactant | DIBAH | CC(C)C[AlH]CC(C)C
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | (RS)-2-butoxy-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanol | 3.05 g | C(CCC)OC(CO)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C20H32O2
